US07304081B2
Step 5. 2-[1-benzyl-4-(hydroxymethyl)pyrrolidin-3-yl]phenol
Lithium tetrahydroaluminate in tetrahydrofuran (1.00 M, 1.50 mL) was added to a solution of 2-benzyl-2,3,3a,9b-tetrahydrochromeno[3,4-c]pyrrol-4(1H)-one (188.0 mg, 0.0006730 mol) in THF (2.0 mL) at 0° C. The mixture was stirred at 0° C. for 1 h and then quenched with acetone. Ethyl acetate (10 mL) was added and the resulting mixture was treated with NaOH (1N, 3 mL) and then was filtered through a pad of celite. The filtrate was washed with brine (2×5 mL) and the organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to give the desired product.

reactant | Lithium tetrahydroaluminate | [AlH4-].[Li+]
reactant | 2-benzyl-2,3,3a,9b-tetrahydrochromeno[3,4-c]pyrrol-4(1H)-one | 0.0006730 mol, 188.0 mg | C(C1=CC=CC=C1)N1CC2C(C1)C=1C=CC=CC1OC2=O | C18H17NO2
solvent | tetrahydrofuran | 1.00 M, 1.50 mL | O1CCCC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 2-[1-benzyl-4-(hydroxymethyl)pyrrolidin-3-yl]phenol | C(C1=CC=CC=C1)N1CC(C(C1)CO)C1=C(C=CC=C1)O | C18H21NO2
